US05534267
1.04 g (3.00) mmoles) of 3-bromo-1 -(4'-methoxybenzyl)-5-methylamino-4-nitropyrazole are hydrogenated for 2 hours according to General Directions A. 0.30 g (2.80 mmoles) of concentrated sulfuric acid (97%) are added. After reduction, 0.86 g (87 percent of theory) of 4-amino-1-(4'-methoxybenzyl)-5-methylaminopyrazole hydrosulfate are obtained in the form of an oil.

reactant | 3-bromo-1 -(4'-methoxybenzyl)-5-methylamino-4-nitropyrazole | BrC1=NN(C(=C1[N+](=O)[O-])NC)CC1=CC=C(C=C1)OC | C12H13BrN4O3
reactant | sulfuric acid | 2.80 mmoles, 0.30 g | S(O)(O)(=O)=O | H2O4S
product | 4-amino-1-(4'-methoxybenzyl)-5-methylaminopyrazole | 0.86 g, 87 percent | NC=1C=NN(C1NC)CC1=CC=C(C=C1)OC | C12H16N4O
